US06465472B1
2-[(1-Methyl-2-imidazolyl)thio]methyl-6,7-methylenedioxy-4-(3,4-methylenedioxy-phenyl)quinazoline
A suspension of 2-chloromethyl-6,7-methylenedioxy-4-(3,4-methylenedioxy-phenyl)quinazoline (193 mg, 0.61 mmol) and 2-mercapto-1-methylimidazole (80 mg, 0.7 mmol) in dry DMF (2 mL) was treated with K2CO3 (97 mg, 0.7 mmol). The mixture was stirred at rt for 2 h, and then it was poured into ice-water. The mixture were extracted with EtOAc and the extract was washed with water and brine, dried over anhydrous MgSO4, and evaporated to yield the crude product, which was crystallized from EtOAc-hexane to give the title compound as colorless rods (142 mg); mp 155-160° C.; 1H NMR (CDCl3) 7.36 (s, 1H), 7.27 (s, 1H), 7.17 (d, J=7.7, 1H), 7.16 (s, 1H), 7.09 (s, 1H), 6.95 (d, J=7.7, 1H), 6.91 (s, 13H), 6.14 (s, 2H), 6.07 (s, 2H), 4.53 (s, 2H), 3,51 (s, 3H). Anal. calcd. for C21H16N4O4S: C, 59.99; H 3.84; N 13.33. Found: C, 59.78; H 3.82; N 13.20.

reactant | 2-chloromethyl-6,7-methylenedioxy-4-(3,4-methylenedioxy-phenyl)quinazoline | 0.61 mmol, 193 mg | ClCC1=NC2=CC3=C(C=C2C(=N1)C1=CC2=C(C=C1)OCO2)OCO3 | C17H11ClN2O4
reactant | 2-mercapto-1-methylimidazole | 0.7 mmol, 80 mg | SC=1N(C=CN1)C | C4H6N2S
reactant | K2CO3 | 0.7 mmol, 97 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[(1-Methyl-2-imidazolyl)thio]methyl-6,7-methylenedioxy-4-(3,4-methylenedioxy-phenyl)quinazoline | CN1C(=NC=C1)SCC1=NC2=CC3=C(C=C2C(=N1)C1=CC2=C(C=C1)OCO2)OCO3 | C21H16N4O4S
